US04418202
In a manner similar to that described above, a transalcoholysis reaction was carried out using ethyl 2-vinyl-1-cyanocyclopropane-1-carboxylate and (5-benzyl-3-furyl)carbinol. The ratio of reactants, catalyst level, and reaction temperature employed were the same as indicated in Example II. (5-Benzyl-3-furyl)methyl 2-vinyl-1-cyanocyclopropane-1-carboxylate was obtained in 85.9% yield and purified by separation using the liquid chromatographic procedure. The structure of the purified (99.4%) product was confirmed by mass spectroscopy and nuclear magnetic resonance spectroscopy.

reactant | ethyl 2-vinyl-1-cyanocyclopropane-1-carboxylate | C(=C)C1C(C1)(C(=O)OCC)C#N | C9H11NO2
reactant | (5-benzyl-3-furyl)carbinol | C(C1=CC=CC=C1)C1=CC(=CO1)CO | C12H12O2
product | (5-Benzyl-3-furyl)methyl 2-vinyl-1-cyanocyclopropane-1-carboxylate | 85.9% yield | C(=C)C1C(C1)(C(=O)OCC1=COC(=C1)CC1=CC=CC=C1)C#N | C19H17NO3
